US04931443
4-Oxo-4-[4-(4-(4-(3-trifluoromethylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid and benzylamine are reacted together to give N-benzyl-5-[4-(4-(4-(3-trifluoromethylphenyl)piperazin-1-yl)butyl)phenyl ]pyrrolidin-2-one.

reactant | 4-Oxo-4-[4-(4-(4-(3-trifluoromethylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid | O=C(CCC(=O)O)C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C25H29F3N2O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-5-[4-(4-(4-(3-trifluoromethylphenyl)piperazin-1-yl)butyl)phenyl ]pyrrolidin-2-one | C(C1=CC=CC=C1)N1C(CCC1C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C32H36F3N3O
